US07749998B2
f) 2-(4-biphenylyl)-N-{[(1,1-dimethylethyl)oxy]carbonyl}alanine
LiOH (1.63 ml, 1M) was added dropwise to a solution of methyl-N-Boc-2-(4-biphenylyl)alaninate (482 mg, 1.36 mmol) in THF (3 ml). The resulting mixture was stirred at rt for 16 h. Solvent was removed under reduced pressure and the residue was taken up in water (10 ml) and washed with EtOAc. The aqueous layer was acidified with HCl (1M) to pH ˜2 and the product was extracted by EtOAc (3×10 ml). The combined extracts were washed with water and brine, dried and concentrated which left 470 mg (90%) as a white solid. MS (ES) m/e 342.4 [M+H]+

reactant | LiOH | 1M, 1.63 ml | [Li+].[OH-]
reactant | methyl-N-Boc-2-(4-biphenylyl)alaninate | 1.36 mmol, 482 mg | COC([C@@](NC(=O)OC(C)(C)C)(C)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C21H25NO4
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 2-(4-biphenylyl)-N-{[(1,1-dimethylethyl)oxy]carbonyl}alanine | C1(=CC=C(C=C1)[C@](NC(=O)OC(C)(C)C)(C)C(=O)O)C1=CC=CC=C1 | C20H23NO4
